US07858796B2
(13) 3-(1-{[3-(cyclopentylamino)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide (50 mg, 0.12 mmol) and cyclopentyl amine (54 uL, 0.60 mmol) were allowed to react in the presence of K2CO3 (74 mg, 0.55 mmol) and NaI (Cat. 5 mg) in DMF at 120° C. The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (27.2 mg, 44%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | 0.12 mmol, 50 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C21H24ClN3O3S2
reactant | cyclopentyl amine | 0.60 mmol, 54 uL | C1(CCCC1)N | C5H11N
reactant | K2CO3 | 0.55 mmol, 74 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5 mg | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(1-{[3-(cyclopentylamino)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 27.2 mg, 44% | C1(CCCC1)NCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C26H34N4O3S2
